US08455475B2
8-(Pyridin-4-yl)-2-azaspiro[4.5]decane (AMN-43)
A solution of benzyl-8-(pyridin-4-yl)-2-azaspiro[4.5]dec-7-ene (300 mg, 0.987 mmol, 1.0 eq.) in MeOH (10 ml) was degassed with argon for 15 min followed by addition of Pd(OH)2 (150 mg). The reaction mixture was stirred under H2 balloon pressure for 4 h. After completion of the reaction (monitored by LCMS), the reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure to yield the desired compound as an off-white solid which was used in the next step without further purification. Yield: 80% (170 mg, 0.787 mmol).

reactant | benzyl-8-(pyridin-4-yl)-2-azaspiro[4.5]dec-7-ene | 0.987 mmol, 300 mg, 1.0 eq. | C(C1=CC=CC=C1)C1NCCC12CC=C(CC2)C2=CC=NC=C2 | C21H24N2
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd(OH)2 | 150 mg | [OH-].[OH-].[Pd+2]
product | 8-(Pyridin-4-yl)-2-azaspiro[4.5]decane | Yield: 80% | N1=CC=C(C=C1)C1CCC2(CCNC2)CC1 | C14H20N2
